US08071768B2
b. 4-(6-Methoxy-7-morpholin-4-yl-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-pyrrolidin-1-yl-phenyl)-amide
The title compound was prepared from 4-(6-methoxy-7-morpholin-4-yl-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester, prepared as described in Example 211a, and (4-pyrrolidin-1-yl-phenyl)-carbamic acid 4-nitro-phenyl ester hydrochloride, prepared as described in Example 74a, using essentially the protocol given for Example 170c. 1H-NMR (400 MHz, CDCl3) δ 9.07 (s, 1H), 7.37 (s, 1H), 7.25 (s, 1H), 7.19 (m, 2H), 6.53 (m, 2H), 6.21 (s, 1H), 4.26 (m, 2H), 4.05 (s, 3H), 3.94 (m, 4H), 3.57 (tt, 1H), 3.31-3.24 (m, 8H), 3.15 (td, 2H), 2.20-2.08 (m, 2H), 2.03-1.94 (m, 6H). LC/MS (ESI): calcd mass 516.3, found 517.3 (MH)+.

reactant | 4-(6-methoxy-7-morpholin-4-yl-quinazolin-4-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)OC)N1CCOCC1 | C23H32N4O4
reactant | (4-pyrrolidin-1-yl-phenyl)-carbamic acid 4-nitro-phenyl ester hydrochloride | Cl.[N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=CC=C(C=C1)N1CCCC1)=O
product | 4-(6-Methoxy-7-morpholin-4-yl-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-pyrrolidin-1-yl-phenyl)-amide | N1(CCCC1)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)OC)N1CCOCC1 | C29H36N6O3
